US08030499B2
Step 126-1: Synthesis of 3-hydroxy-3-(2-methoxy-5-methylphenyl)-2-oxo indoline-5-carbonitrile
With 7.06 g of 2-bromo-1-methoxy-4-methyl benzene and 4.03 g of 2,3-dioxo indoline-5-carbonitrile as starting materials, 3.50 g of the title compound (brown amorphous) was obtained by a similar method to Step 21-1.

reactant | 2-bromo-1-methoxy-4-methyl benzene | 7.06 g | BrC1=C(C=CC(=C1)C)OC | C8H9BrO
reactant | 2,3-dioxo indoline-5-carbonitrile | 4.03 g | O=C1NC2=CC=C(C=C2C1=O)C#N | C9H4N2O2
product | 3-hydroxy-3-(2-methoxy-5-methylphenyl)-2-oxo indoline-5-carbonitrile | 3.50 g | OC1(C(NC2=CC=C(C=C12)C#N)=O)C1=C(C=CC(=C1)C)OC | C17H14N2O3
